US05681837
N1,N2, N3, N4 -Tetra-p-tosylspermine, To spermine tetrahydrocbloride (4.53 g, 13.0 mmol) and 10% aqueous NaOH (200 mL, 132 mmol) at 0° is added dropwise p-toluene-sulfonyl chloride (9.98 g, 52.3 mmol) in CH2Cl2 with rapid stirring. After 1 hr the mixture is allowed to warm to room temperature and to stir for 2 days. The organic phase is separated and washed with 0.5 N HCl, H2O, and brine, dried over Na2SO4 and purified on silica gel (450 g, 3% MeOH/CHCl3) to give 9.69 g, 91% yield of tetratosylspermine.

reactant | spermine | NCCCNCCCCNCCCN | C10H26N4
reactant | NaOH | 132 mmol, 200 mL | [OH-].[Na+]
reactant | p-toluene-sulfonyl chloride | 52.3 mmol, 9.98 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tetratosylspermine | 9.69 g, 91% yield | S(=O)(=O)(C1=CC=C(C)C=C1)C(N(S(=O)(=O)C1=CC=C(C)C=C1)S(=O)(=O)C1=CC=C(C)C=C1)(CCNCCCCNCCCN)S(=O)(=O)C1=CC=C(C)C=C1 | C38H50N4O8S4
